US06509500B2
Batch Mode Preparation of Methyl 2-[4-[(butylsulfonyl)amino]phenoxy]tetradecanoate (2)
A phosphate buffer solution composed of 49 g of water, 66 g of 45% aqueous potassium hydroxide (0.53 moles) and 38 g (0.32 moles) of 85% phosphoric acid was treated at room temperature with a solution of 69 g (0.197 moles) of methyl 2-[4-aminophenoxy]tetradecanoate (the amine) in 172 g of heptane. The temperature was adjusted to 30° C. and 37.1 g (0.237 moles) of butanesulfonyl chloride was added dropwise over 1 hr. The two-phase mixture was stirred for 4 hr while the temperature was maintained at 30° C. to 35° C. The product assayed 96.9% on a solvent-free basis. The bottom water layer was removed, and the upper layer was washed several times with 100 mL of water and was crystallized by cooling to ice temperature. The product was filtered and washed with 200 mL of cold heptane to afford 85 g (90% yield) of white solid, 98.9% assay by HPLC.

reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | potassium hydroxide | 0.53 moles, 66 g | [OH-].[K+]
reactant | phosphoric acid | 0.32 moles, 38 g | P(O)(O)(O)=O | H3O4P
reactant | methyl 2-[4-aminophenoxy]tetradecanoate | 0.197 moles, 69 g | NC1=CC=C(OC(C(=O)OC)CCCCCCCCCCCC)C=C1 | C21H35NO3
reactant | butanesulfonyl chloride | 0.237 moles, 37.1 g | C(CCC)S(=O)(=O)Cl | C4H9ClO2S
solvent | heptane | 172 g | CCCCCCC | C7H16
solvent | water | 49 g | O | H2O
product | Methyl 2-[4-[(butylsulfonyl)amino]phenoxy]tetradecanoate | 85 g, 90% yield | C(CCC)S(=O)(=O)NC1=CC=C(OC(C(=O)OC)CCCCCCCCCCCC)C=C1 | C25H43NO5S
